US07417062B2
Step 2: 7-Methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carboxylic acid benzofuran-2-ylmethyl-[(2S,3aS,7aS)-1-(octahydro-indol-2-yl)methyl]-amide.
To a solution of 45 mg (0.09 mmol) of (2S,3aS,7aS)-2-{[(benzofuran-2-ylmethyl)-amino]-methyl}-octahydro-indole-1-carboxylic acid tert-butyl ester trifluoroacetic acid salt in 1 mL dichloromethane, 28 μL (0.20 mmol) of triethylamine and 23 mg (0.10 mmol) of 7-methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carbonyl chloride were added at r.t. Stirring at r.t. for 1 hour was followed by the addition of 0.1 mL trifluoroacetic acid; 2 hours thereafter the solution was evaporated in vacuum and purified using reverse phase HPLC, mobile phase with a gradient 15-80% acetonitrile in 50 min. Fractions containing pure product were evaporated, the residue was dissolved in dichloromethane, which was washed with aqueous sodium bicarbonate, dried with anhydrous magnesium sulfate and evaporated in vacuum to yield 13 mg of the product as the free base off-white Solid. LC-MSD, m/z for C29H34N2O5 [M+H]+: 491.2. 1H NMR (400 MHz, CDCl3): δ 1.2-2.3 (m, 11 H), 1.7 (s, 6 H), 3.2-3.9 (m, 4 H), 3.9 (s, 3 H), 4.7-4.9 (m, 1 H), 4.9-5.0 (m, 1 H), 6.7 (s, 1H), 6.7-6.9 (m, 2H), 7.2-7.3 (m, 2H), 7.4-7.5 (m, 1 H), 7.5-7.6 (m, 1 H).

reactant | (2S,3aS,7aS)-2-{[(benzofuran-2-ylmethyl)-amino]-methyl}-octahydro-indole-1-carboxylic acid tert-butyl ester trifluoroacetic acid salt | 0.09 mmol, 45 mg | FC(C(=O)O)(F)F.C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H]2CCCC[C@H]12)CNCC=1OC2=C(C1)C=CC=C2
reactant | triethylamine | 0.20 mmol, 28 μL | C(C)N(CC)CC | C6H15N
reactant | 7-methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carbonyl chloride | 0.10 mmol, 23 mg | COC1=CC(=CC2=C1OC(O2)(C)C)C(=O)Cl | C11H11ClO4
reactant | trifluoroacetic acid | 0.1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 7-Methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carboxylic acid benzofuran-2-ylmethyl-[(2S,3aS,7aS)-1-(octahydro-indol-2-yl)methyl]-amide | 13 mg | O1C(=CC2=C1C=CC=C2)CN(C(=O)C2=CC1=C(OC(O1)(C)C)C(=C2)OC)C[C@H]2N[C@H]1CCCC[C@H]1C2 | C29H34N2O5
